US05665733
5.1. 7-Chloro-2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-carboxaldehyde
100 ml of dry N,N-dimethylformamide are cooled to 0° C., under an argon atmosphere, 12 ml (128 mmol) of phosphorus oxychloride are added dropwise and the mixture is stirred at room temperature for 1 h. 13.7 g (51 mmol) of 7-chloro-2-methyl-3-phenylisoquinol-1(2 H)-one are added and the mixture is gradually heated to 110° C. and is maintained at this temperature for 4 h. It is cooled to room temperature, the solvent is evaporated under reduced pressure, 200 ml of diethyl ether and ice are added to the residue, 1N sodium hydroxide is added, the organic phase is separated and the aqueous phase is extracted with 200 ml of dichloromethane. The two organic phases are combined, dried over sodium sulphate and filtered and the solvents are evaporated under reduced pressure. The residue is purified by chromatography on a column of silica gel, elution being carried out with a mixture of cyclohexane and dichloromethane ranging from 80/20 to 50/50 and then with a mixture of dichloromethane and ethyl acetate ranging from 100/0 to 70/30. After recrystallizing from cyclohexane, 7.68 g (26 mmol) of white solid are obtained. Melting point: 172°-173° C.

reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 128 mmol, 12 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-chloro-2-methyl-3-phenylisoquinol-1(2 H)-one | 51 mmol, 13.7 g | ClC1=CC=C2C=C(N(C(C2=C1)=O)C)C1=CC=CC=C1 | C16H12ClNO
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 7-Chloro-2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-carboxaldehyde | ClC1=CC=C2C(=C(N(C(C2=C1)=O)C)C1=CC=CC=C1)C=O | C17H12ClNO2
